* Z:\home\bean\RadioNotes\cascode.asc
Vgen1 N011 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=0
R1 N008 N011 330
Q1 N002 N004 N006 0 Q
Q2 N006 N009 N012 0 Q
R2 N001 N002 500
V1 N001 0 13.3
R3 N004 N009 10k
R4 N009 0 10k
C1 N004 0 0.022µ
C2 N009 N008 0.022µ
R5 N001 N004 22k
Q3 N003 N005 N007 0 Q
Q4 N007 N010 N013 0 Q
R6 N005 N010 10k
R7 N010 0 10k
C3 N005 0 0.022µ
R8 N001 N005 22k
R9 N001 N003 165
C4 N010 N002 0.022µ
R10 N012 0 165
R11 N013 0 20
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.param freq 28.074Meg
.tran 0 1m 100u 100p
.model Q AKO: 2N3904
.backanno
.end
