* Z:\home\bean\RadioNotes\cascode.asc
Vgen1 N010 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=0
R1 N007 N010 330
Q2 N005 N008 N011 0 Q
R2 N001 N002 660
V1 N001 0 13.3
R3 N003 N008 10k
R4 N008 0 1.5k
C1 N003 0 0.022µ
C2 N008 N007 0.022µ
R5 N001 N003 22k
Q3 N006 N009 N012 0 Q
Q4 N012 N014 N015 0 Q
R6 N009 N014 10k
R7 N014 0 10k
C3 N009 0 0.022µ
R8 N004 N009 22k
R9 N004 N006 165
C4 N014 N013 0.022µ
R11 N015 0 20
R10 N011 0 50
Q1 N002 N003 N005 0 Q
Q5 N001 N002 P001 0 Q
R12 P001 0 165
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.param freq 28.074Meg
.tran 0 1m 100u 100p
.model Q AKO: 2N3904 (Bf=400)
.backanno
.end
