* Z:\home\bean\RadioNotes\cascode.asc
Vgen1 N009 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=0
R1 N007 N009 330
Q2 N005 N007 N010 0 Q
R2 N001 N002 330
V1 NC_01 0 13.3
R3 N003 N007 10k
R4 N007 0 2.2k
C1 N003 0 0.022µ
R5 N001 N003 22k
Q3 N006 N008 N011 0 Q
Q4 N011 N013 N014 0 Q
R6 N008 N013 10k
R7 N013 0 10k
C3 N008 0 0.022µ
R8 N004 N008 22k
R9 N004 N006 165
C4 N013 N012 0.022µ
R11 N014 0 20
R10 N010 0 50
Q1 N002 N003 N005 0 Q
Q5 N001 N002 P001 0 Q
R12 P001 0 165
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.param freq 28.074Meg
.tran 0 1m 100u 100p
.model Q AKO: 2N3904 (Bf=400)
.backanno
.end
