* Z:\home\bean\RadioNotes\cascode.asc
Vgen1 N011 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) AC 1 0 Rser=0
R1 N008 N011 330
Q2 N006 N009 N012 0 Q
R2 N001 N002 660
V1 N001 0 13.3
R4 N009 0 1k
C1 N003 0 0.022µ
R5 N001 N003 6.8k
Q3 N007 N010 N013 0 Q
Q4 N013 N015 N016 0 Q
R6 N010 N015 10k
R7 N015 0 10k
C3 N010 0 0.022µ
R8 N004 N010 22k
R9 N004 N007 165
C4 N015 N014 0.022µ
R11 N016 0 20
R10 N012 0 100
Q5 N001 N002 N005 0 Q
R12 N005 0 83
C2 N009 N008 0.022µ
R3 N003 0 2.2k
R13 N001 N009 6.8k
V2 NC_01 NC_02 SINE(1.65 1.65 {freq})
Q1 N002 N003 N006 0 Q
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.param freq 28.074Meg
.tran 0 1m 100u 100p
.model Q AKO: 2N3904 (Bf=60)
* .ac dec 1000 1Meg 1G
.backanno
.end
