* Z:\home\bean\RadioNotes\cascode.asc
Vgen1 N013 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) AC 1 0 Rser=0
R1 N011 N013 330
Q2 N010 N011 N014 0 Q
R2 N001 N004 330
V1 N001 0 13.3
R4 N011 0 1k
C1 N006 0 0.022µ
R5 N001 N006 10k
R10 N014 0 33
V2 NC_01 NC_02 SINE(1.65 1.65 {freq})
Q1 N004 N006 N010 0 Q
R3 N006 0 3.4k
Q5 N012 N009 N008 0 P
Q6 N003 N005 N008 0 Q
R7 N001 N003 70
R8 N012 0 70
R6 N001 N005 3.3k
R9 N009 0 3.3k
Q3 N002 N004 N007 0 Q
R13 N007 0 165
R14 N005 N007 100
R15 N007 N009 100
R16 N001 N002 40
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.param freq 28.074Meg
.tran 0 200u 100u 100p
.model Q AKO: 2N3904 (Bf=60)
* .ac dec 1000 1Meg 1G
.model P AKO: 2N3906 (Bf=60)
* NPN: on when Vbe > 0.7 and current flowing
* PNP: on when Vbe < -0.7 and current flowing
* R16 in reality: 0 ohms/DNE
* IRL: 50 ohms
* IRL: 50 ohms
* CH1
* CH2
.backanno
.end
